### PR TITLE
[Merged by Bors] - refactor(Probability): change stopping times to take values in `WithTop`

### PR DESCRIPTION
**Pull request by RemyDegenne**
This PR changes stopping times to have type `Ω → WithTop ι` instead of `Ω → ι`.
Previously, a stopping time for a filtration indexed by Nat had to have value in Nat. That's not representative of the way stopping times are used in probability. A typical stopping time is the first time at which we see a head in an infinite sequence of coin flips. That time could be infinite (although it is almost surely finite). We can't represent it with a `Ω → Nat` stopping time: if we choose an arbitrary value in Nat for the event that it is infinite, we destroy the stopping time property.
We faced that issue in the `BorelCantelli` file, in which we avoided such a possibly infinite stopping time by introducing a sequence of bounded stopping times. We had to prove additional lemmas about them since we could not directly use the API for stopped processes. With the new type, that file is greatly simplified as the API is directly usable, and we can write the proof as we would on paper.

The issue with the previous stopping time implementation was noted in [Ying and Degenne, A Formalization of Doob’s Martingale Convergence Theorems in mathlib, CPP 2023, https://dl.acm.org/doi/pdf/10.1145/3573105.3575675].

Other changes:
- the sigma-algebra generated by a stopping time is now a sub-sigma algebra by definition
-  `measurableSet_eq_stopping_time` is generalized and the now useless `measurableSet_eq_stopping_time_of_countable` is removed
- `hitting` is renamed to `hittingBtwn`
- a new `hittingAfter` is introduced and used in the Borel-Cantelli proof. That proof is now much simpler since we can use a stopped process as intended instead of going around the limitations of the previous stopping time implementation.

---

- [x] depends on: #29466
- [x] depends on: #30543

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Martingale/BorelCantelli.lean [hunk 1]
```diff
@@ -45,122 +45,103 @@ variable {Ω : Type*} {m0 : MeasurableSpace Ω} {μ : Measure Ω} {ℱ : Filtrat
...
+theorem Adapted.isStoppingTime_leastGE (r : ℝ)
+    [∀ ω, Decidable (∃ j, 0 ≤ j ∧ f j ω ∈ Set.Ici r)] (hf : Adapted ℱ f) :
+    IsStoppingTime ℱ (leastGE f r) :=
+  hittingAfter_isStoppingTime hf measurableSet_Ici
+
+/-- The stopped process of `f` above `r` is the process that is equal to `f` until `leastGE f r`
+(the first time `f` passes above `r`), and then is constant afterwards. -/
+noncomputable def stoppedAbove (f : ℕ → Ω → ℝ) (r : ℝ)
+    [∀ ω, Decidable (∃ j, 0 ≤ j ∧ f j ω ∈ Set.Ici r)] : ℕ → Ω → ℝ :=
+    stoppedProcess f (leastGE f r)
```
Comment (kex-y) [inline Mathlib/Probability/Martingale/BorelCantelli.lean]:
```suggestion
  stoppedProcess f (leastGE f r)
```

File: Mathlib/Probability/Process/Stopping.lean [hunk 2]
```diff
@@ -682,10 +858,12 @@ section LinearOrder
 
 /-! ## Stopped value and stopped process -/
 
+variable [Nonempty ι]
 
 /-- Given a map `u : ι → Ω → E`, its stopped value with respect to the stopping
 time `τ` is the map `x ↦ u (τ ω) ω`. -/
-def stoppedValue (u : ι → Ω → β) (τ : Ω → ι) : Ω → β := fun ω => u (τ ω) ω
+noncomputable
+def stoppedValue (u : ι → Ω → β) (τ : Ω → WithTop ι) : Ω → β := fun ω => u (τ ω).ut ω
```
Comment (kex-y) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
def stoppedValue (u : ι → Ω → β) (τ : Ω → WithTop ι) : Ω → β := fun ω ↦ u (τ ω).ut ω
```
Same below

File: Mathlib/Probability/Process/Stopping.lean [hunk 3]
```diff
@@ -696,30 +874,37 @@ variable [LinearOrder ι]
...
-theorem stoppedProcess_eq_stoppedValue {u : ι → Ω → β} {τ : Ω → ι} :
-    stoppedProcess u τ = fun i => stoppedValue u fun ω => min i (τ ω) :=
-  rfl
+theorem stoppedProcess_eq_stoppedValue {u : ι → Ω → β} {τ : Ω → WithTop ι} :
+    stoppedProcess u τ = fun i : ι => stoppedValue u fun ω => min i (τ ω) := rfl
 
-theorem stoppedValue_stoppedProcess {u : ι → Ω → β} {τ σ : Ω → ι} :
-    stoppedValue (stoppedProcess u τ) σ = stoppedValue u fun ω => min (σ ω) (τ ω) :=
-  rfl
+theorem stoppedValue_stoppedProcess {u : ι → Ω → β} {τ σ : Ω → WithTop ι} :
```
Comment (kex-y) [inline Mathlib/Probability/Process/Stopping.lean:749]: Can you add a lemma saying if \sigma is a.s. finite then we have a.s. equality?

File: Mathlib/Probability/Process/Stopping.lean [hunk 4]
```diff
@@ -949,33 +1252,56 @@ section Nat
 
 open Filtration
 
-variable {u : ℕ → Ω → β} {τ π : Ω → ℕ}
+variable {u : ℕ → Ω → β} {τ π : Ω → WithTop ℕ}
 
-theorem stoppedValue_sub_eq_sum [AddCommGroup β] (hle : τ ≤ π) :
+theorem stoppedValue_sub_eq_sum [AddCommGroup β] (hle : τ ≤ π) (hπ : ∀ ω, π ω ≠ ⊤) :
```
Comment (kex-y) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
theorem stoppedValue_sub_eq_sum [AddCommGroup β] (hle : τ ≤ π) (hπ : ∀ ω, π ω ≠ ∞) :
```

File: Mathlib/Probability/Process/Stopping.lean [hunk 5]
```diff
@@ -949,33 +1252,56 @@ section Nat
 
 open Filtration
 
-variable {u : ℕ → Ω → β} {τ π : Ω → ℕ}
+variable {u : ℕ → Ω → β} {τ π : Ω → WithTop ℕ}
```
Comment (kex-y) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
variable {u : ℕ → Ω → β} {τ π : Ω → ℕ∞}
```

File: Mathlib/Probability/Process/Stopping.lean (hunk 4 above)
Comment (kex-y) [inline Mathlib/Probability/Process/Stopping.lean]: Maybe for a separate PR but it would be nice to have a.s. versions of these lemmas

File: Mathlib/Probability/Process/Stopping.lean (hunk 2 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Process/Stopping.lean]: The files I am modifying use a lot of `=>` (from mathport). I used mostly `↦` in my code, but I don't want to change it everywhere, or the PR would be changing twice as many lines.

File: Mathlib/Probability/Process/Stopping.lean [hunk 6]
```diff
@@ -373,12 +409,14 @@ theorem measurableSet_inter_eq_iff (hτ : IsStoppingTime f τ) (s : Set Ω) (i :
     intro hxi
     rw [hxi]
   constructor <;> intro h
-  · specialize h i
-    simpa only [Set.inter_assoc, this, le_refl, Set.setOf_true, Set.inter_univ] using h
-  · intro j
+  · have h' := h.2
+    specialize h' i
+    simpa only [Set.inter_assoc, this, le_refl, Set.setOf_true, Set.inter_univ] using h'
```
Comment (EtienneC30) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
  · simpa [Set.inter_assoc, this] using h.2 i
```

File: Mathlib/Probability/Process/Stopping.lean [hunk 7]
```diff
@@ -769,19 +826,28 @@ theorem ProgMeasurable.stronglyMeasurable_stoppedProcess [PseudoMetrizableSpace
 
 theorem stronglyMeasurable_stoppedValue_of_le (h : ProgMeasurable f u) (hτ : IsStoppingTime f τ)
     {n : ι} (hτ_le : ∀ ω, τ ω ≤ n) : StronglyMeasurable[f n] (stoppedValue u τ) := by
+  have hτ_le' ω : (τ ω).untopA ≤ n := by
+    specialize hτ_le ω
+    simp only [WithTop.untopA]
+    have : τ ω ≠ ⊤ := ne_top_of_le_ne_top (by simp) hτ_le
+    lift τ ω to ι using this with t ht
+    simp only [WithTop.untopD_coe, ge_iff_le]
+    exact mod_cast hτ_le
```
Comment (EtienneC30) [inline Mathlib/Probability/Process/Stopping.lean]: I see that there is almost nothing about `untopA` in Mathlib. This definitely looks like it should be a separate lemma.

File: Mathlib/Probability/Process/Stopping.lean [hunk 8]
```diff
@@ -791,58 +857,126 @@ theorem measurable_stoppedValue [PseudoMetrizableSpace β] [MeasurableSpace β]
...
+      ext ω
+      simp only [Set.mem_inter_iff, Set.mem_preimage, stoppedValue, WithTop.untopA,
+        Set.mem_setOf_eq, and_congr_left_iff]
+      intro h
+      simp [h]
+    rw [this]
+    refine MeasurableSet.inter ?_ hτ.measurableSet_eq_top
+    refine ht.preimage ?_
+    have h_ada := hf_prog.adapted (Classical.arbitrary ι)
+    exact h_ada.measurable.mono (f.le (Classical.arbitrary ι)) le_rfl
```
Comment (EtienneC30) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
    refine MeasurableSet.inter (ht.preimage ?_) hτ.measurableSet_eq_top
    exact (hf_prog.adapted (Classical.arbitrary ι)).measurable.mono
      (f.le (Classical.arbitrary ι)) le_rfl
```

File: Mathlib/Probability/Martingale/Upcrossing.lean [hunk 9]
```diff
@@ -366,9 +373,13 @@ theorem Adapted.upcrossingStrat_adapted (hf : Adapted ℱ f) :
     ∑ k ∈ Finset.range N, ({n | lowerCrossingTime a b f N k ω ≤ n} ∩
       {n | n < upperCrossingTime a b f N (k + 1) ω}).indicator 1 n
   refine Finset.stronglyMeasurable_fun_sum _ fun i _ =>
-    stronglyMeasurable_const.indicator ((hf.isStoppingTime_lowerCrossingTime n).inter ?_)
+    stronglyMeasurable_const.indicator ?_ --((hf.isStoppingTime_lowerCrossingTime n).inter ?_)
```
Comment (EtienneC30) [inline Mathlib/Probability/Martingale/Upcrossing.lean]:
```suggestion
    stronglyMeasurable_const.indicator ?_
```

File: Mathlib/Probability/Martingale/Upcrossing.lean [hunk 10]
```diff
@@ -739,8 +751,10 @@ theorem Adapted.measurable_upcrossingsBefore (hf : Adapted ℱ f) (hab : a < b)
     ext ω
     exact upcrossingsBefore_eq_sum hab
   rw [this]
-  exact Finset.measurable_fun_sum _ fun i _ => Measurable.indicator measurable_const <|
-    ℱ.le N _ (hf.isStoppingTime_upperCrossingTime.measurableSet_lt_of_pred N)
+  refine Finset.measurable_fun_sum _ fun i _ => Measurable.indicator measurable_const <|
+    ℱ.le N _ ?_
+  have hu := (hf.isStoppingTime_upperCrossingTime (a := a) (b := b) (N := N) (n := i))
+  simpa only [ENat.some_eq_coe, Nat.cast_lt] using hu.measurableSet_lt_of_pred N
```
Comment (EtienneC30) [inline Mathlib/Probability/Martingale/Upcrossing.lean]:
```suggestion
  simpa only [ENat.some_eq_coe, Nat.cast_lt] using
    hf.isStoppingTime_upperCrossingTime.measurableSet_lt_of_pred N
```

File: Mathlib/Probability/Process/HittingTime.lean [hunk 11]
```diff
@@ -43,66 +40,108 @@ namespace MeasureTheory
...
   fun x => if ∃ j ∈ Set.Icc n m, u j x ∈ s
     then sInf (Set.Icc n m ∩ {i : ι | u i x ∈ s}) else m
 
+@[deprecated (since := "2025-09-08")] alias hitting := hittingBtwn
+
+/-- Hitting time: given a stochastic process `u` and a set `s`, `hittingAfter u s n` is
+the first time `u` is in `s` after time `n` (if `u` does not hit `s` after time `n` then the
+hitting time is `⊤`). -/
+noncomputable def hittingAfter [Preorder ι] [InfSet ι] (u : ι → Ω → β)
+    (s : Set β) (n : ι) [∀ ω, Decidable (∃ j, n ≤ j ∧ u j ω ∈ s)] : Ω → WithTop ι :=
```
Comment (EtienneC30) [inline Mathlib/Probability/Process/HittingTime.lean]: I think it would be better to open Classical for this def too no? This `Decidable` assumption seems annoying.

**Review by EtienneC30 — COMMENTED** [review]
Thanks, that is huge! Sadly using `WithTop` adds a lot of friction in basic theory, but it's clearly better for applications.

File: Mathlib/Probability/Process/HittingTime.lean [hunk 12]
```diff
@@ -43,66 +40,107 @@ namespace MeasureTheory
...
+after time `n` and before `m` then the hitting time is simply `m`).
 
 The hitting time is a stopping time if the process is adapted and discrete. -/
-noncomputable def hitting [Preorder ι] [InfSet ι] (u : ι → Ω → β)
+noncomputable def hittingBtwn [Preorder ι] [InfSet ι] (u : ι → Ω → β)
     (s : Set β) (n m : ι) : Ω → ι :=
   fun x => if ∃ j ∈ Set.Icc n m, u j x ∈ s
     then sInf (Set.Icc n m ∩ {i : ι | u i x ∈ s}) else m
 
+@[deprecated (since := "2025-09-08")] alias hitting := hittingBtwn
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/HittingTime.lean]: Should the deprecation dates be updated?

File: Mathlib/Probability/Process/HittingTime.lean [hunk 13]
```diff
@@ -43,66 +40,107 @@ namespace MeasureTheory
...
+theorem notMem_of_lt_hittingAfter {k : ι} (hk₁ : k < hittingAfter u s n ω) (hk₂ : n ≤ k) :
+    u k ω ∉ s := by
+  classical
+  intro h
+  have hexists : ∃ j, n ≤ j ∧ u j ω ∈ s := ⟨k, hk₂, h⟩
+  refine not_le.2 hk₁ ?_
+  simp_rw [hittingAfter, if_pos hexists]
+  norm_cast
+  exact csInf_le bddBelow_Ici.inter_of_left ⟨hk₂, h⟩
+
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/HittingTime.lean]:
```suggestion
  refine fun h ↦ not_le.2 hk₁ ?_
  rw [hittingAfter, if_pos ⟨k, hk₂, h⟩]
  exact_mod_cast csInf_le bddBelow_Ici.inter_of_left ⟨hk₂, h⟩

```

File: Mathlib/Probability/Process/HittingTime.lean [hunk 14]
```diff
@@ -111,77 +149,157 @@ theorem le_hitting {m : ι} (hnm : n ≤ m) (ω : Ω) : n ≤ hitting u s n m ω
...
+@[deprecated (since := "2025-09-08")] alias le_hitting := le_hittingBtwn
+
+lemma le_hittingAfter (ω : Ω) : n ≤ hittingAfter u s n ω := by
+  simp only [hittingAfter]
+  split_ifs with h
+  · norm_cast
+    refine le_csInf ?_ fun b hb => ?_
+    · obtain ⟨k, hk_Icc, hk_s⟩ := h
+      exact ⟨k, hk_Icc, hk_s⟩
+    · exact hb.1
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/HittingTime.lean]:
```suggestion
  · exact_mod_cast le_csInf h fun b hb => hb.1
```

File: Mathlib/Probability/Process/HittingTime.lean [hunk 15]
```diff
@@ -111,77 +149,157 @@ theorem le_hitting {m : ι} (hnm : n ≤ m) (ω : Ω) : n ≤ hitting u s n m ω
...
+
+lemma hittingAfter_mem_set [WellFoundedLT ι] (h_exists : ∃ j, n ≤ j ∧ u j ω ∈ s) :
+    u (hittingAfter u s n ω).untopA ω ∈ s := by
+  simp_rw [hittingAfter, if_pos h_exists]
+  have h_nonempty : {i : ι | n ≤ i ∧ u i ω ∈ s}.Nonempty := by
+    obtain ⟨k, hk₁, hk₂⟩ := h_exists
+    exact ⟨k, Set.mem_inter hk₁ hk₂⟩
+  have h_mem := csInf_mem h_nonempty
+  simp only [Set.mem_setOf_eq] at h_mem
+  exact h_mem.2
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/HittingTime.lean]:
```suggestion
  rw [hittingAfter, if_pos h_exists]
  have h_nonempty : {i : ι | n ≤ i ∧ u i ω ∈ s}.Nonempty := by
    obtain ⟨k, hk₁, hk₂⟩ := h_exists
    exact ⟨k, Set.mem_inter hk₁ hk₂⟩
  exact (csInf_mem h_nonempty).2
```

File: Mathlib/Probability/Process/HittingTime.lean [hunk 16]
```diff
@@ -111,77 +149,157 @@ theorem le_hitting {m : ι} (hnm : n ≤ m) (ω : Ω) : n ≤ hitting u s n m ω
...
-    hitting u s n m ω ≤ i := by
+@[deprecated (since := "2025-09-08")] alias hitting_mem_set_of_hitting_lt :=
+  hittingBtwn_mem_set_of_hittingBtwn_lt
+
+lemma hittingAfter_mem_set_of_ne_top [WellFoundedLT ι] (hl : hittingAfter u s n ω ≠ ⊤) :
+    u (hittingAfter u s n ω).untopA ω ∈ s := by
+  simp only [ne_eq, hittingAfter_eq_top_iff, not_forall, not_not] at hl
+  obtain ⟨j, hj₁, hj₂⟩ := hl
+  refine hittingAfter_mem_set ?_
+  exact ⟨j, hj₁, hj₂⟩
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/HittingTime.lean]:
```suggestion
  exact hittingAfter_mem_set ⟨j, hj₁, hj₂⟩
```

File: Mathlib/Probability/Process/HittingTime.lean [hunk 17]
```diff
@@ -111,77 +149,157 @@ theorem le_hitting {m : ι} (hnm : n ≤ m) (ω : Ω) : n ≤ hitting u s n m ω
...
 
-theorem hitting_le_iff_of_exists [WellFoundedLT ι] {m : ι}
+@[deprecated (since := "2025-09-08")] alias hitting_le_of_mem := hittingBtwn_le_of_mem
+
+lemma hittingAfter_le_of_mem (hin : n ≤ i) (his : u i ω ∈ s) :
+    hittingAfter u s n ω ≤ i := by
+  have h_exists : ∃ k, n ≤ k ∧ u k ω ∈ s := ⟨i, hin, his⟩
+  simp_rw [hittingAfter, if_pos h_exists]
+  norm_cast
+  exact csInf_le (BddBelow.inter_of_left bddBelow_Ici) (Set.mem_inter hin his)
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/HittingTime.lean]:
```suggestion
  rw [hittingAfter, if_pos h_exists]
  exact_mod_cast csInf_le (BddBelow.inter_of_left bddBelow_Ici) (Set.mem_inter hin his)
```

File: Mathlib/Probability/Process/HittingTime.lean [hunk 18]
```diff
@@ -204,87 +326,140 @@ theorem hitting_mono {m₁ m₂ : ι} (hm : m₁ ≤ m₂) : hitting u s n m₁
...
+  · have h_le : ∀ ω, hittingBtwn u s n n' ω ≤ i := fun x => (hittingBtwn_le x).trans hi
     simp [h_le]
-  · have h_set_eq_Union : {ω | hitting u s n n' ω ≤ i} = ⋃ j ∈ Set.Icc n i, u j ⁻¹' s := by
+  · have h_set_eq_Union : {ω | hittingBtwn u s n n' ω ≤ i} = ⋃ j ∈ Set.Icc n i, u j ⁻¹' s := by
       ext x
-      rw [Set.mem_setOf_eq, hitting_le_iff_of_lt _ hi]
+      rw [Set.mem_setOf_eq, hittingBtwn_le_iff_of_lt _ hi]
       simp only [Set.mem_Icc, exists_prop, Set.mem_iUnion, Set.mem_preimage]
+    simp only [WithTop.coe_le_coe]
     rw [h_set_eq_Union]
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/HittingTime.lean]:
```suggestion
    simp_rw [WithTop.coe_le_coe, h_set_eq_Union]
```

File: Mathlib/Probability/Process/HittingTime.lean [hunk 19]
```diff
@@ -204,87 +326,140 @@ theorem hitting_mono {m₁ m₂ : ι} (hm : m₁ ≤ m₂) : hitting u s n m₁
...
     simp [← or_and_right, le_or_gt]
-  have h₂ : ⋃ i > n, {x | τ x = i} ∩ {x | hitting u s i N x ≤ n} = ∅ := by
+  have h₂ : ⋃ i > n, {x | τ x = i} ∩ {x | hittingBtwn u s i N x ≤ n} = ∅ := by
     ext x
     simp only [gt_iff_lt, Set.mem_iUnion, Set.mem_inter_iff, Set.mem_setOf_eq, exists_prop,
       Set.mem_empty_iff_false, iff_false, not_exists, not_and, not_le]
-    rintro m hm rfl
-    exact lt_of_lt_of_le hm (le_hitting (hτbdd _) _)
+    intro m hm hτ
+    refine hm.trans_le <| le_hittingBtwn ?_ x
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/HittingTime.lean]:
```suggestion
    refine fun m hm hτ ↦ hm.trans_le <| le_hittingBtwn ?_ x
```

File: Mathlib/Probability/Process/Stopping.lean [hunk 20]
```diff
@@ -226,127 +251,134 @@ end MeasurableSet
...
-    MeasurableSet[hτ.measurableSpace] s ↔ ∀ i : ι, MeasurableSet[f i] (s ∩ {ω | τ ω ≤ i}) :=
+    MeasurableSet[hτ.measurableSpace] s
+      ↔ MeasurableSet s ∧ ∀ i : ι, MeasurableSet[f i] (s ∩ {ω | τ ω ≤ i}) :=
   Iff.rfl
 
 theorem measurableSpace_mono (hτ : IsStoppingTime f τ) (hπ : IsStoppingTime f π) (hle : τ ≤ π) :
     hτ.measurableSpace ≤ hπ.measurableSpace := by
-  intro s hs i
+  intro s hs
+  refine ⟨hs.1, fun i ↦ ?_⟩
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
  refine fun s hs ↦ ⟨hs.1, fun i ↦ ?_⟩
```

File: Mathlib/Probability/Process/Stopping.lean [hunk 21]
```diff
@@ -355,13 +387,17 @@ theorem measurableSpace_const (f : Filtration ι m) (i : ι) :
...
   rw [IsStoppingTime.measurableSet]
   constructor <;> intro h
-  · specialize h i
-    simpa only [le_refl, Set.setOf_true, Set.inter_univ] using h
-  · intro j
+  · have h' := h.2
+    specialize h' i
+    simpa only [le_refl, Set.setOf_true, Set.inter_univ] using h'
+  · refine ⟨f.le i _ h, ?_⟩
+    intro j
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
  · have h' := h.2 i
    simpa only [le_refl, Set.setOf_true, Set.inter_univ] using h'
  · refine ⟨f.le i _ h, fun j ↦ ?_⟩
```

File: Mathlib/Probability/Process/Stopping.lean [hunk 22]
```diff
@@ -573,14 +616,18 @@ theorem measurableSet_inter_le [TopologicalSpace ι] [SecondCountableTopology ι
     refine fun _ hτ_le_π => lt_of_lt_of_le ?_ hτ_le_π
     rw [← not_le]
     exact hτi
-  rw [this]
-  refine ((hs i).inter ((hτ.min hπ) i)).inter ?_
+  simp_rw [h_eq]
+  constructor
+  · refine hs.1.inter ?_
+    exact measurableSet_le hτ.measurable' hπ.measurable'
+  intro i
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
  refine ⟨hs.1.inter (measurableSet_le hτ.measurable' hπ.measurable'), fun i ↦ ?_⟩
```

File: Mathlib/Probability/Process/Stopping.lean [hunk 23]
```diff
@@ -696,30 +726,40 @@ variable [LinearOrder ι]
...
+theorem stoppedProcess_eq_stoppedValue {u : ι → Ω → β} {τ : Ω → WithTop ι} :
+    stoppedProcess u τ = fun i : ι => stoppedValue u fun ω => min i (τ ω) := rfl
 
-theorem stoppedValue_stoppedProcess {u : ι → Ω → β} {τ σ : Ω → ι} :
-    stoppedValue (stoppedProcess u τ) σ = stoppedValue u fun ω => min (σ ω) (τ ω) :=
-  rfl
+theorem stoppedValue_stoppedProcess {u : ι → Ω → β} {τ σ : Ω → WithTop ι} :
+    stoppedValue (stoppedProcess u τ) σ =
+    fun ω ↦ if σ ω ≠ ⊤ then stoppedValue u (fun ω ↦ min (σ ω) (τ ω)) ω
+    else stoppedValue u (fun ω ↦ min (Classical.arbitrary ι) (τ ω)) ω := by
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/Stopping.lean]: Here I would indent the lines starting with `fun ...` and `else ...` because we have the equal sign above (and maybe the `else ...` line could be indented twice), but I did not find an explicit recommendation for this case in the style guide.

```suggestion
theorem stoppedValue_stoppedProcess {u : ι → Ω → β} {τ σ : Ω → WithTop ι} :
    stoppedValue (stoppedProcess u τ) σ =
      fun ω ↦ if σ ω ≠ ⊤ then stoppedValue u (fun ω ↦ min (σ ω) (τ ω)) ω
      else stoppedValue u (fun ω ↦ min (Classical.arbitrary ι) (τ ω)) ω := by
```

File: Mathlib/Probability/Process/Stopping.lean [hunk 24]
```diff
@@ -791,58 +849,125 @@ theorem measurable_stoppedValue [PseudoMetrizableSpace β] [MeasurableSpace β]
...
-  stoppedValue_eq_of_mem_finset fun ω => Finset.mem_Iic.mpr (hbdd ω)
+    stoppedValue u τ = ∑ i ∈ Finset.Iic N, Set.indicator {ω | τ ω = i} (u i) := by
+  refine stoppedValue_eq_of_mem_finset fun ω ↦ ?_
+  simp only [Finset.coe_Iic, Set.mem_image]
+  specialize hbdd ω
+  have h_top : τ ω ≠ ⊤ := fun h_contra ↦ by simp [h_contra] at hbdd
+  lift τ ω to ι using h_top with i hi
+  norm_cast at hbdd ⊢
+  have h' := Finset.mem_Iic.mpr hbdd
+  exact ⟨i, by simpa using h', rfl⟩
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
  exact ⟨i, mod_cast hbdd, rfl⟩
```

File: Mathlib/Probability/Process/Stopping.lean [hunk 25]
```diff
@@ -791,58 +849,125 @@ theorem measurable_stoppedValue [PseudoMetrizableSpace β] [MeasurableSpace β]
...
+        exact not_le.2 h
     · rw [Finset.mem_filter]
-      exact ⟨hbdd ω h, h⟩
+      simp only [Set.mem_image, Finset.mem_coe, WithTop.coe_eq_coe, exists_eq_right] at hbdd
+      exact ⟨hbdd, mod_cast h⟩
     · intro b _ hneq
       rw [Set.indicator_of_notMem]
       rw [Set.mem_setOf]
-      exact hneq.symm
+      rw [← hi]
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
      rw [Set.mem_setOf, ← hi]
```

File: Mathlib/Probability/Process/Stopping.lean [hunk 26]
```diff
@@ -852,20 +977,29 @@ section StoppedValue
...
   refine ℱ.le i {a : Ω | τ a = i} (hτ.measurableSet_eq_of_countable_range ?_ i)
-  refine ((Finset.finite_toSet s).subset fun ω hω => ?_).countable
-  obtain ⟨y, rfl⟩ := hω
-  exact hbdd y
+  refine Set.Finite.countable ?_
+  have : Set.range τ ⊆ WithTop.some '' s := by
+    intro x hx
+    obtain ⟨y, rfl⟩ := hx
+    exact hbdd y
+  exact ((Finset.finite_toSet s).image _).subset this
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
  have : Set.range τ ⊆ WithTop.some '' s := by
    rintro x ⟨y, rfl⟩
    exact hbdd y
  exact ((Finset.finite_toSet s).image _).subset this |>.countable
```

File: Mathlib/Probability/Process/Stopping.lean [hunk 27]
```diff
@@ -989,10 +1162,22 @@ theorem stoppedProcess_eq' (n : ℕ) : stoppedProcess u τ n = Set.indicator {a
...
+      have : {a | ↑n + 1 ≤ τ a} = {a | ↑n < τ a} := by
+        ext ω
+        simp only [Set.mem_setOf_eq]
+        cases τ ω with
+        | top => simp
+        | coe t =>
+          simp only [Nat.cast_lt]
+          norm_cast
+      rw [this]
+      simp_rw [Set.setOf_or]
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
      rw [this, Set.setOf_or]
```

File: Mathlib/Probability/Martingale/BorelCantelli.lean [hunk 28]
```diff
@@ -45,122 +45,96 @@ variable {Ω : Type*} {m0 : MeasurableSpace Ω} {μ : Measure Ω} {ℱ : Filtrat
...
-  change f (leastGE f r i ω) ω ≤ r + R
-  by_cases heq : leastGE f r i ω = 0
-  · rw [heq, hf0, Pi.zero_apply]
-    exact add_nonneg hr R.coe_nonneg
-  · obtain ⟨k, hk⟩ := Nat.exists_eq_succ_of_ne_zero heq
-    rw [hk, add_comm, ← sub_le_iff_le_add]
-    have := notMem_of_lt_hitting (hk.symm ▸ k.lt_succ_self : k < leastGE f r i ω) (zero_le _)
-    simp only [Set.mem_Ici, not_le] at this
+  rw [stoppedAbove, stoppedProcess]
+  simp only [ENat.some_eq_coe]
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Martingale/BorelCantelli.lean]:
```suggestion
  rw [stoppedAbove, stoppedProcess, ENat.some_eq_coe]
```

File: Mathlib/Probability/Martingale/BorelCantelli.lean [hunk 29]
```diff
@@ -45,122 +45,96 @@ variable {Ω : Type*} {m0 : MeasurableSpace Ω} {μ : Measure Ω} {ℱ : Filtrat
...
+  Submartingale.eLpNorm_stoppedAbove_le'
+
 /-- This lemma is superseded by `Submartingale.bddAbove_iff_exists_tendsto`. -/
 theorem Submartingale.exists_tendsto_of_abs_bddAbove_aux [IsFiniteMeasure μ]
     (hf : Submartingale f ℱ μ) (hf0 : f 0 = 0) (hbdd : ∀ᵐ ω ∂μ, ∀ i, |f (i + 1) ω - f i ω| ≤ R) :
     ∀ᵐ ω ∂μ, BddAbove (Set.range fun n => f n ω) → ∃ c, Tendsto (fun n => f n ω) atTop (𝓝 c) := by
-  have ht :
-    ∀ᵐ ω ∂μ, ∀ i : ℕ, ∃ c, Tendsto (fun n => stoppedValue f (leastGE f i n) ω) atTop (𝓝 c) := by
+  classical
+  have ht : ∀ᵐ ω ∂μ, ∀ i : ℕ, ∃ c, Tendsto (fun n => stoppedAbove f i n ω) atTop (𝓝 c) := by
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Martingale/BorelCantelli.lean]:
```suggestion
  have ht : ∀ᵐ ω ∂μ, ∀ i : ℕ, ∃ c, Tendsto (fun n => stoppedAbove f i n ω) atTop (𝓝 c) := by
```

File: Mathlib/Probability/Martingale/Upcrossing.lean [hunk 30]
```diff
@@ -304,30 +308,33 @@ theorem upperCrossingTime_eq_of_bound_le (hab : a < b) (hn : N ≤ n) :
...
+      refine isStoppingTime_hittingBtwn_isStoppingTime ih₂ ?_ measurableSet_Ici hf _
+      simp only [ENat.some_eq_coe, Nat.cast_le]
+      exact fun _ => lowerCrossingTime_le
     refine ⟨this, ?_⟩
     intro n
-    exact isStoppingTime_hitting_isStoppingTime this (fun _ => upperCrossingTime_le)
-      measurableSet_Iic hf _
+    refine isStoppingTime_hittingBtwn_isStoppingTime this ?_ measurableSet_Iic hf _
+    simp only [ENat.some_eq_coe, Nat.cast_le]
+    exact fun _ => upperCrossingTime_le
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Martingale/Upcrossing.lean]:
```suggestion
  | succ k ih =>
    have : IsStoppingTime ℱ (fun ω ↦ (upperCrossingTime a b f N (k + 1) ω : ℕ)) := by
      intro n
      simp_rw [upperCrossingTime_succ_eq]
      refine isStoppingTime_hittingBtwn_isStoppingTime ih.2 ?_ measurableSet_Ici hf _
      simp [lowerCrossingTime_le]
    refine ⟨this, fun n ↦ ?_⟩
    refine isStoppingTime_hittingBtwn_isStoppingTime this ?_ measurableSet_Iic hf _
    simp [upperCrossingTime_le]
```

File: Mathlib/Probability/Martingale/Upcrossing.lean [hunk 31]
```diff
@@ -366,9 +373,13 @@ theorem Adapted.upcrossingStrat_adapted (hf : Adapted ℱ f) :
...
   refine Finset.stronglyMeasurable_fun_sum _ fun i _ =>
-    stronglyMeasurable_const.indicator ((hf.isStoppingTime_lowerCrossingTime n).inter ?_)
+    stronglyMeasurable_const.indicator ?_
+  have hl := hf.isStoppingTime_lowerCrossingTime (a := a) (b := b) (N := N) (n := i) n
+  have hu := hf.isStoppingTime_upperCrossingTime (a := a) (b := b) (N := N) (n := i + 1) n
+  simp only [ENat.some_eq_coe, Nat.cast_le] at hl hu
+  refine hl.inter ?_
   simp_rw [← not_le]
-  exact (hf.isStoppingTime_upperCrossingTime n).compl
+  exact hu.compl
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Martingale/Upcrossing.lean]:
```suggestion
  simp_rw [← not_le]
  exact hl.inter hu.compl
```

File: Mathlib/Probability/Martingale/BorelCantelli.lean [hunk 32]
```diff
@@ -45,122 +45,96 @@ variable {Ω : Type*} {m0 : MeasurableSpace Ω} {μ : Measure Ω} {ℱ : Filtrat
...
-  have heq : ∀ n, stoppedValue f (leastGE f i n) ω = f n ω := by
+  have heq : ∀ n, stoppedAbove f i n ω = f n ω := by
     intro n
-    rw [leastGE]; unfold hitting; rw [stoppedValue]
-    rw [if_neg]
-    simp only [Set.mem_Icc, Set.mem_Ici]
-    push_neg
-    exact fun j _ => hib j
+    simp [stoppedAbove, stoppedProcess, leastGE]
+    rw [hittingAfter_eq_top_iff.mpr]
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Martingale/BorelCantelli.lean]:
```suggestion
    rw [stoppedAbove, stoppedProcess, leastGE, hittingAfter_eq_top_iff.mpr]
```

File: Mathlib/Probability/Martingale/OptionalStopping.lean [hunk 33]
```diff
@@ -205,15 +220,20 @@ theorem maximal_ineq [IsFiniteMeasure μ] (hsub : Submartingale f 𝒢 μ) (hnon
...
     _ ≤ ENNReal.ofReal (μ[f n]) := by
       refine ENNReal.ofReal_le_ofReal ?_
       rw [← stoppedValue_const f n]
-      exact hsub.expected_stoppedValue_mono (hitting_isStoppingTime hsub.adapted measurableSet_Ici)
-        (isStoppingTime_const _ _) (fun ω => hitting_le ω) (fun _ => le_refl n)
+      refine hsub.expected_stoppedValue_mono
+        (hittingBtwn_isStoppingTime hsub.adapted measurableSet_Ici)
+        (isStoppingTime_const _ _) (fun ω ↦ ?_) (fun _ => mod_cast le_rfl)
+      simp only [ENat.some_eq_coe, Nat.cast_le]
+      exact hittingBtwn_le ω
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Martingale/OptionalStopping.lean]:
```suggestion
      simp [hittingBtwn_le]
```

File: Mathlib/Probability/Martingale/OptionalSampling.lean [hunk 34]
```diff
@@ -67,8 +66,12 @@ theorem condExp_stopping_time_ae_eq_restrict_eq_const_of_le_const (h : Martingal
   · suffices {x : Ω | τ x = i} = ∅ by simp [this]; norm_cast
     ext1 x
     simp only [Set.mem_setOf_eq, Set.mem_empty_iff_false, iff_false]
-    rintro rfl
-    exact hin (hτ_le x)
+    intro h_eq
+    specialize hτ_le x
+    rw [h_eq] at hτ_le
+    norm_cast at hτ_le
```
Comment (LorenzoLuccioli) [inline Mathlib/Probability/Martingale/OptionalSampling.lean]:
```suggestion
    contrapose! hin
    exact_mod_cast hin ▸ hτ_le x
```

**Review by LorenzoLuccioli — COMMENTED** [review]
I made some golfing suggestions and two other minor things. Apart from that, this looks good to me!

File: Mathlib/Probability/Process/HittingTime.lean (hunk 12 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Process/HittingTime.lean]: Yes good point, I'll do that at the end of the review process.

**Comment by EtienneC30** [comment]
This looks good to me, thanks!
maintainer merge

**Comment by sgouezel** [comment]
Could you update the file-level docstring of Stopping.lean to emphasize that stopping times take value in WithTop \iota (and add comments about this design, how this corresponds to usual mathematical practice and how the design with values in \iota would be too limited)?

bors d+

**Comment by RemyDegenne** [comment]
Thanks for the reviews!
bors r+
